US07595405B2
3-(5-Chloro-pyridin-2-yl)-5-isobutyrylamino-benzoic acid methyl ester (1.90 g, 5.71 mmol) was dissolved in acetonitrile, and NaN3 (3.71 g, 5.71 mmol) and SiCl4 (1.64 mL, 14.28 mmol) were added. The reaction mixture was stirred at 60° C. for 18 hours, then cooled and poured in to cold saturated aqueous NaHCO3. The resulting mixture was extracted with EtOAc, and the combined organic layers were dried (MgSO4), filtered and concentrated under reduced pressure to give 1.84 g of 3-(5-chloro-pyridin-2-yl)-5-(5-isopropyl-tetrazol-1-yl)-benzoic acid methyl ester, MS (M+H)=358.

reactant | 3-(5-Chloro-pyridin-2-yl)-5-isobutyrylamino-benzoic acid methyl ester | 5.71 mmol, 1.90 g | COC(C1=CC(=CC(=C1)NC(C(C)C)=O)C1=NC=C(C=C1)Cl)=O | C17H17ClN2O3
reactant | NaN3 | 5.71 mmol, 3.71 g | [N-]=[N+]=[N-].[Na+]
reactant | SiCl4 | 14.28 mmol, 1.64 mL | [Si](Cl)(Cl)(Cl)Cl | Cl4Si
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(5-chloro-pyridin-2-yl)-5-(5-isopropyl-tetrazol-1-yl)-benzoic acid methyl ester | 1.84 g | COC(C1=CC(=CC(=C1)N1N=NN=C1C(C)C)C1=NC=C(C=C1)Cl)=O | C17H16ClN5O2
